US04870074
Preparation of 2-(2-hydroxyethyl)-4-benzyloxycarbonylmorpholine
A mixture of 2-(2-acetoxyethyl)-4-benzyloxycarbonylmorpholine (24.5 g), potassium hydroxide (8.9 g), ethanol (40 ml), and water (40 ml) is refluxed for 30 minutes and concentrated under reduced pressure. Water is added to the residue and the mixture is extracted with diethyl ether. The organic layer is washed with water, dried over sodium sulfate, and evaporated to give the title compound (15 g) as an oil.

reactant | 2-(2-acetoxyethyl)-4-benzyloxycarbonylmorpholine | 24.5 g | C(C)(=O)OCCC1CN(CCO1)C(=O)OCC1=CC=CC=C1 | C16H21NO5
reactant | potassium hydroxide | 8.9 g | [OH-].[K+]
reactant | ethanol | 40 ml | C(C)O | C2H6O
solvent | water | 40 ml | O | H2O
product | 2-(2-hydroxyethyl)-4-benzyloxycarbonylmorpholine | 15 g | OCCC1CN(CCO1)C(=O)OCC1=CC=CC=C1 | C14H19NO4
